US04379154
A solution of 3-chloromethylpyridine hydrochloride (100 g) in ethanol (310 cc), at 60° C. is added dropwise and in the course of 15 minutes to a suspension of thiourea (55 g) in boiling ethanol (310 cc). The reaction mixture is stirred for 1 hour 45 minutes at the boil and then cooled to 30° C. After decantation, the supernatant solution is discarded. Ethanol (400 cc) is added to the remaining gummy solid and the mixture is stirred for 63 hours at a temperature of about 20° C. The resulting crystals are filtered off, washed twice with ethanol (60 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Pyrid-3-yl-methyl)isothiourea monohydrochloride (100 g), melting at 220° C. is thus obtained.

reactant | 3-chloromethylpyridine hydrochloride | 100 g | Cl.ClCC=1C=NC=CC1
reactant | thiourea | 55 g | NC(=S)N | CH4N2S
solvent | ethanol | 310 cc | C(C)O | C2H6O
solvent | Ethanol | 400 cc | C(C)O | C2H6O
solvent | ethanol | 310 cc | C(C)O | C2H6O
product | 2-(Pyrid-3-yl-methyl)isothiourea monohydrochloride | 100 g | Cl.N1=CC(=CC=C1)CSC(N)=N | InChI=1S/C7H9N3S.ClH/c8-7(9)11-5-6-2-1-3-10-4-6;/h1-4H,5H2,(H3,8,9);1H
